US04728355
A stirred solution of 2.0 grams (0.009 mole) of phenyl N-(4-pyridazinyl)carbamate and 1.0 ml (0.010 mole) of cyclopentylamine in tetrahydrofuran is heated under reflux for 18 hours. The reaction mixture is filtered and the filtrate concentrated under reduced pressure to a residue. The residue is purified by column chromatography on silica gel. Elution is accomplished with 10% methanol in methylene chloride. The appropriate fractions are combined and concentrated under reduced pressure to yield 0.2 gram of N-(4-pyridazinyl)-N'-cyclopentylurea. This material is combined with the identical product from a previous reaction to yield 0.5 gram; m.p. 192°-195° C., dec. The nmr spectrum is consistent with the proposed structure. The reaction is repeated several times.

reactant | phenyl N-(4-pyridazinyl)carbamate | 0.009 mole, 2.0 grams | N1=NC=C(C=C1)NC(OC1=CC=CC=C1)=O | C11H9N3O2
reactant | cyclopentylamine | 0.010 mole, 1.0 ml | C1(CCCC1)N | C5H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(4-pyridazinyl)-N'-cyclopentylurea | 0.2 gram | N1=NC=C(C=C1)NC(=O)NC1CCCC1 | C10H14N4O
